US06071903
3-hydroxymethyl-4-(4-Methoxybenzenesulfonyl)-1-(3-pyridinylmethyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine
A mixture of 0.100 g (0.208 mmol) of methyl 4-(4-methoxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate and 3 ml of borane-tetrahydroforan complex in tetrahydrofuran (1.0 M) was refluxed overnight. The solution was cooled to room temperature, diluted with methanol and the solvent removed. Methanol was added several times and, after each addition. the solvent was removed. To the residue was added 1N NaHCO3. The mixture was stirred for 45 minutes and then extracted with ethyl acetate. The extract was concentrated and then washed with H2O, brine and dried with Na2SO4. The solvent was removed under vacuum and the residue chromatographed on thick layer silica gel plates with 10% methanol in ethyl acetate as solvent to give 60 mg of solid (RF 0.26). Crystallization from ethyl acetate gave 30 mg of white crystals. Anal. for C23H25N3O4S: Calc'd: C,62.8; H,5.7; N,9.6; S,7.3; Found: C,61.1; H,5.6; N,9.2; S,7.3; Mass spectrum (ES) 440.2 (M+H).

reactant | methyl 4-(4-methoxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 0.208 mmol, 0.100 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)C(=O)C=2C=NC=CC2)C(=O)OC | C24H23N3O6S
solvent | tetrahydrofuran | 1.0 M | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-hydroxymethyl-4-(4-Methoxybenzenesulfonyl)-1-(3-pyridinylmethyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine | 60 mg | OCC1CN(C2=C(CN1S(=O)(=O)C1=CC=C(C=C1)OC)C=CC=C2)CC=2C=NC=CC2 | C23H25N3O4S
